US07482341B2
Step C]: 3-Chloro-N-[6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-ylamine (0.08 g) and 3-chloro-benzenesulfonyl chloride (0.095 g) as a light yellow gum (0.096 g). MS (ESI−): 365.0 ([M−H]−).

reactant | 6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-ylamine | 0.08 g | C1(CC1)CCOCC1=CC=CC(=N1)N | C11H16N2O
reactant | 3-chloro-benzenesulfonyl chloride | 0.095 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 3-Chloro-N-[6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-yl]-benzenesulfonamide | ClC=1C=C(C=CC1)S(=O)(=O)NC1=NC(=CC=C1)COCCC1CC1 | C17H19ClN2O3S
